US08053431B2
2-[5-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-benzimidazol-2-yl]-cyclopropanecarboxylic Acid Ethyl Ester
To a solution of (3,4-diaminophenyl)-(1,3,3-trimethyl-6-azabicyclo[3.2.1]oct-6-yl)methanone (500 mg, 1.74 mmol) in dry NMP (25 mL) at room temperature under an inert atmosphere of nitrogen was added approx. 500 mg of molecular sieve 4 Å followed by ethyl 2-formyl-1-cyclopropanecarboxylate (0.51 mL, 3.86 mmol). The mixture was stirred for 16 hrs at 50° C. The reaction was quenched by the addition of water (100 mL) followed by extraction with diethyl ether (3×100 mL). The combined organic phases were washed with water (3×100 mL), brine (100 mL), dried (MgSO4), filtered, and evaporated in vacuo. The resulting oil was purified by preparative HPLC, dried in vacuo at 50° C. affording 60 mg (8%) of the title compound as a solid. MS-ESI m/z 410; 1H NMR (400 MHz, CDCl3) δ 0.88-1.06 (m, 6H), 1.07-1.20 (m, 4H), 1.25 (t, 3H), 1.27-1.34 (m) and 1.49-1.66 (m, 3H), 1.36-1.48 (m, 2H), 1.72-1.84 (m, 2H), 2.36-2.48 (m, 1H), 2.66-2.76 (m, 1H), 3.18-3.27 (m, 1H), 3.30 (d) and 3.65 (d, 1H), 4.00-4.06 (m) and 4.57-4.65 (m, 1H), 4.14 (q, 2H), 7.18-7.30 (m, 2H), 7.57 (d, 1H), 10.37 (br s, 1H).

reactant | (3,4-diaminophenyl)-(1,3,3-trimethyl-6-azabicyclo[3.2.1]oct-6-yl)methanone | 1.74 mmol, 500 mg | NC=1C=C(C=CC1N)C(=O)N1C2CC(CC(C1)(C2)C)(C)C | C17H25N3O
reactant | ethyl 2-formyl-1-cyclopropanecarboxylate | 3.86 mmol, 0.51 mL | C(=O)C1C(C1)C(=O)OCC | C7H10O3
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
product | 2-[5-(1,3,3-Trimethyl-6-aza-bicyclo[3.2.1]octane-6-carbonyl)-1H-benzimidazol-2-yl]-cyclopropanecarboxylic Acid Ethyl Ester | 60 mg, 8% | C(C)OC(=O)C1C(C1)C1=NC2=C(N1)C=CC(=C2)C(=O)N2C1CC(CC(C2)(C1)C)(C)C | C24H31N3O3
